US06432993B1
(28-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxy-2,5-dimethylphenoxy)phenyl}-N-methylcarbamate
In a similar manner to that described in Example (2-1), a reaction was carried out using t-butyl N-[2-amino-5-(4-hydroxy-2,5-dimethylphenoxy)phenyl]-N-methylcarbamate (0.54 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (0.51 g), diethyl cyanophosphonate (0.29 g), triethylamine (0.18 g) and anhydrous tetrahydrofuran (10 ml) and the reaction mixture was purified to give the desired product (0.71 g).

reactant | t-butyl N-[2-amino-5-(4-hydroxy-2,5-dimethylphenoxy)phenyl]-N-methylcarbamate | 0.54 g | NC1=C(C=C(C=C1)OC1=C(C=C(C(=C1)C)O)C)N(C(OC(C)(C)C)=O)C | C20H26N2O4
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 0.51 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 0.29 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.18 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxy-2,5-dimethylphenoxy)phenyl}-N-methylcarbamate | 0.71 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=C(C=C(C(=C2)C)O)C)N(C(OC(C)(C)C)=O)C)C=C1 | C32H35N3O8S
